US07521455B2
(2) Manufacture of (2S)-2-methyl-1-[3-(4-nitrophenoxy)propyl]pyrrolidine
The target compound was obtained by the method according to Example 18, using 3-[(2S)-2-methylpyrrolidin-1-yl]propanol and 4-nitrophenol as starting materials.

reactant | 3-[(2S)-2-methylpyrrolidin-1-yl]propanol | C[C@@H]1N(CCC1)CCCO | C8H17NO
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | (2S)-2-methyl-1-[3-(4-nitrophenoxy)propyl]pyrrolidine | C[C@@H]1N(CCC1)CCCOC1=CC=C(C=C1)[N+](=O)[O-] | C14H20N2O3
